US07067517B2
Methyl-phenyl-carbamic acid 5-(2,2-dimethyl-propylcarbamoyl)-pyridin-2-yl ester
A solution of N-(2,2-dimethyl-propyl)-6-hydroxy-nicotinamide (0.50 g, 2.40 mmol), N-methyl-N-phenylcarbamoyl chloride (0.41 g, 2.40 mmol) and 1,4-diazabicyclo[2,2,2]octane (0.27 g, 2.40 mmol) in tetrahydrofuran (15 mL) was stirred at room temperature for 3 hours. The solvent was evaporated in vacuo and the residue was purified by flash column chromatography (first column: SiO2, dichloromethane:ethyl acetate 95:5, second column: SiO2, ethyl acetate), yielding the title compound (0.43 g, 52% yield).

reactant | N-(2,2-dimethyl-propyl)-6-hydroxy-nicotinamide | 2.40 mmol, 0.50 g | CC(CNC(C1=CN=C(C=C1)O)=O)(C)C | C11H16N2O2
reactant | N-methyl-N-phenylcarbamoyl chloride | 2.40 mmol, 0.41 g | CN(C(=O)Cl)C1=CC=CC=C1 | C8H8ClNO
reactant | 1,4-diazabicyclo[2,2,2]octane | 2.40 mmol, 0.27 g | N12CCN(CC1)CC2 | C6H12N2
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | Methyl-phenyl-carbamic acid 5-(2,2-dimethyl-propylcarbamoyl)-pyridin-2-yl ester | 0.43 g, 52% yield | CC(CNC(=O)C=1C=CC(=NC1)OC(N(C1=CC=CC=C1)C)=O)(C)C | C19H23N3O3
